US04789637
1-propyn-3-ethylurea was prepared in the following manner: To a 500 mL flask fitted with a stirrer, thermometer, N2 flow tube, and a dropping funnel, 75 mL THF and 5.5 g (0.1 mole, 6.9 mL) monopropargylamine was added followed by the dropwise addition of 7.1 g (0.1 mole) ethylisocyanate in 10 mL THF; the temperature was initially moderated with a water bath and continued for 1 hour at room temperature.

reactant | monopropargylamine | 0.1 mole, 6.9 mL, 5.5 g | C(C#C)N | C3H5N
reactant | ethylisocyanate | 0.1 mole, 7.1 g | C(C)N=C=O | C3H5NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 1-propyn 3-ethylurea | C#CC.C(C)NC(N)=O | InChI=1S/C3H8N2O.C3H4/c1-2-5-3(4)6;1-3-2/h2H2,1H3,(H3,4,5,6);1H,2H3
